US06489487B1
To a solution of 2.75 g (9.28 mmol) of triphosgene in 15 ml of methylene chloride was added dropwise a solution of 1.25 g (4.64 mmol) of 1,1-dimethyl-4-(3-phenylbenzyl)semicarbazide (produced in the following Reference Production Example 1) in 10 ml of methylene chloride with ice-cooling. The mixture was removed from an ice bath, allowed to warm to room temperature, and heated under reflux for 4 hours. After allowing to cool to room temperature, the reaction mixture was poured into an about 5% aqueous solution of sodium bicarbonate, and the mixture was stirred for 1 hour. The organic layer was washed with water, dried and concentrated. The residue was subjected to silica gel column chromatography (eluted with n-hexane:ethyl acetate=5:1 and then 3:1) to obtain 0.59 g (2.0 mmol) of 5-chloro-2-methyl-4-(3-phenylbenzyl)-2,4-dihydro-3H-1,2,4-triazol-3-one (the compound 2 of the present invention).

reactant | triphosgene | 9.28 mmol, 2.75 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1,1-dimethyl-4-(3-phenylbenzyl)semicarbazide | 4.64 mmol, 1.25 g | CN(NC(=O)NCC1=CC(=CC=C1)C1=CC=CC=C1)C | C16H19N3O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-methyl-4-(3-phenylbenzyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 2.0 mmol, 0.59 g | ClC=1N(C(N(N1)C)=O)CC1=CC(=CC=C1)C1=CC=CC=C1 | C16H14ClN3O
